US03978129
1-Cyclopropyl-3-methylamino-1-(3-trifluoromethylphenyl)-1-propanol.
A mixture of 5 g. (0.016 mole) of 1-cyclopropyl-3-(N-methylacetamido)-1-(3-trifluoromethylphenyl)-1-propanol, 2.9 g. (0.024 mole) of potassium tertiary butoxide and 25 ml. of dimethyl sulfoxide was warmed on a steam bath for 45 minutes. The mixture was cooled, poured into ice water and extracted with benzene. The benzene extract was dried over magnesium sulfate and concentrated to an oil which was distilled at 108°C./0.15 mm. The yield was 2.6 g. (59%).

reactant | 1-cyclopropyl-3-(N-methylacetamido)-1-(3-trifluoromethylphenyl)-1-propanol | 0.016 mole | C1(CC1)C(CCN(C(C)=O)C)(O)C1=CC(=CC=C1)C(F)(F)F | C16H20F3NO2
reactant | potassium tertiary butoxide | 0.024 mole | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1-Cyclopropyl-3-methylamino-1-(3-trifluoromethylphenyl)-1-propanol | C1(CC1)C(CCNC)(O)C1=CC(=CC=C1)C(F)(F)F | C14H18F3NO
